US04849441
In 300 ml of methyl alcohol was dissolved 22.45 g of 3-(2-amino-3, 5-dimethylphenyl)-1, 3-dihydroisobenzofuran-1-one. The solution was heated at reflux for 10 hours in the presence of 20.23 g of p-toluenesulfonic acid monohydrate. The resulting solution was concentrated to dryness under reduced pressure. The obtained solid was dissolved in 200 ml of dichloromethane. The solution was washed with saturated aqueous sodium bicarbonate solution and with saturated aqueous sodium chloride solution. After drying over anhydrous sodium sulfate, the solution was filtered and the resulting filtrate was concentrated to dryness under reduced pressure. To the obtained solid was added to diisopropyl ether and the solid was ground into powders. Thus, 12.65 g of 2,4-dimethyl-11-methoxy-5, 11-dihydro-6H-dibenz[b,e]azepin-6-one was obtained.

reactant | 3-(2-amino-3, 5-dimethylphenyl)-1, 3-dihydroisobenzofuran-1-one | 22.45 g | NC1=C(C=C(C=C1C)C)C1OC(C2=CC=CC=C12)=O | C16H15NO2
reactant | p-toluenesulfonic acid monohydrate | 20.23 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methyl alcohol | 300 ml | CO | CH4O
product | 2,4-dimethyl-11-methoxy-5, 11-dihydro-6H-dibenz[b,e]azepin-6-one | 12.65 g | CC1=CC2=C(NC(C3=C(C2OC)C=CC=C3)=O)C(=C1)C | C17H17NO2
